US06586475B1
4-(4-Biphenylylmethoxy)phenyl Acetic Acid
To a solution of ethyl 4-hydroxyphenylacetic acid (3.6 g) in DMF (50 ml) were added potassium carbonate (2.5 g) and 4-phenylbenzyl chloride (4 g) sequentially. After stirring at 60° C. for 6 hr, the reaction mixture was poured onto water and the resulting crystals were suspended in ethyl acetate. The suspension was washed with water and concentrated. The resulting crude crystals were dissolved in THF (100 ml)/ethanol (50 ml) and 2 N sodium hydroxide (20 ml) was added to the solution. The reaction mixture was heated under stirring at 60° C. for 18 hr and concentrated. The residue was acidified with 2 N hydrochloric acid and the resulting crystals were collected by filtration and washed with ethyl ether to obtain the titled compound (5.3 g).

reactant | ethyl 4-hydroxyphenylacetic acid | 3.6 g | C(C)C(C(=O)O)C1=CC=C(C=C1)O | C10H12O3
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-phenylbenzyl chloride | 4 g | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Biphenylylmethoxy)phenyl Acetic Acid | 5.3 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C21H18O3
